US06720324B2
A suspension of benzyl 2-propionyl-3-(3,4,5-trifluorophenyl)-2-propenoate (16.0 g, 48.0 mmol), O-methylisourea hydrogen sulfate (16.65 g, 97.02 mmol), NaHCO3 (16.3 g, 130.2 mmol) in DMF (190 mL) was stirred at 70° C. for 20h. After cooling to room temperature, the reaction mixture was filtered and the filtrate was diluted with EtOAc (300 mL) and then washed with water (4×100 mL), brine (200 mL) and dried over Na2SO4. After removal of solvent, the residue was purified by column chromatography (SiO2, EtOAc/Hexane, 10%-30%) to afford benzyl 6-(3,4-difluorophenyl)-4-ethyl-2-methoxy-1,6-dihydro-5-pyrimidinecarboxylate as a colorless oil (10.6 g, 58% yield). The product was directly used in the next step after 1H NMR spectroscopy which showed it to be a mixture of amine/imine tautomers.

reactant | benzyl 2-propionyl-3-(3,4,5-trifluorophenyl)-2-propenoate | 48.0 mmol, 16.0 g | C(CC)(=O)C(C(=O)OCC1=CC=CC=C1)=CC1=CC(=C(C(=C1)F)F)F | C19H15F3O3
reactant | O-methylisourea hydrogen sulfate | 97.02 mmol, 16.65 g | S(=O)(=O)(O)O.COC(N)=N
reactant | NaHCO3 | 130.2 mmol, 16.3 g | C(=O)(O)[O-].[Na+]
solvent | DMF | 190 mL | CN(C)C=O | C3H7NO
product | benzyl 6-(3,4-difluorophenyl)-4-ethyl-2-methoxy-1,6-dihydro-5-pyrimidinecarboxylate | 10.6 g, 58% yield | FC=1C=C(C=CC1F)C1C(=C(N=C(N1)OC)CC)C(=O)OCC1=CC=CC=C1 | C21H20F2N2O3
